US06747024B1
29.1) 2-[3,5-di(tert-butyl)-4-hydroxyphenoxy]acetic acid
3.6 ml (46 mmol) of trifluoroacetic acid is added to a solution of 1.56 g (4.64 mmol) of tert-butyl 2-[3,5-di(tert-butyl)-4-hydroxyphenoxy]acetate (prepared according to J. Heterocycl. Chem. (1994) 31, 1439-1443) in 20 ml of dichloromethane. The reaction mixture is stirred for 1 hour, concentrated under vacuum and the residue is dissolved in

reactant | trifluoroacetic acid | 46 mmol, 3.6 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl 2-[3,5-di(tert-butyl)-4-hydroxyphenoxy]acetate | 4.64 mmol, 1.56 g | C(C)(C)(C)C=1C=C(OCC(=O)OC(C)(C)C)C=C(C1O)C(C)(C)C | C20H32O4
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 2-[3,5-di(tert-butyl)-4-hydroxyphenoxy]acetic acid | C(C)(C)(C)C=1C=C(OCC(=O)O)C=C(C1O)C(C)(C)C | C16H24O4
